US05714487
(7S,8aS)-7-(4-Fluorophenoxy)methyl-2-(5-chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A solution of 0.25 g (0.93 mmol) of (7S,8aS)-7-hydroxymethyl-2-(5-chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 14), 0.157 g (1.40 mmol) of 4-fluorophenol, 0.29 g (1.12 mmol) of triphenylphosphine and 0.18 mL (1.1 mmol) of diethyl azodicarboxylate (DEAD) in 10 mL of dry THF was stirred at ambient temperature for 16 h. The solvent was evaporated, the residue was dissolved in chloroform and washed with 1M sodium hydroxide. The organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 1:1 hexane:ethyl acetate gave 0.24 g (71%) of the title compound. mp (.HCl) 221°-224° C. HRMS calcd for C19H22ClFN3O (MH+): 362.1435, found: 362.1415.

reactant | (7S,8aS)-7-hydroxymethyl-2-(5-chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.93 mmol, 0.25 g | OC[C@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=C2)Cl)C1 | C13H18ClN3O
reactant | 4-fluorophenol | 1.40 mmol, 0.157 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 1.12 mmol, 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.1 mmol, 0.18 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (7S,8aS)-7-(4-Fluorophenoxy)methyl-2-(5-chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.24 g, 71% | FC1=CC=C(OC[C@H]2C[C@@H]3N(CCN(C3)C3=NC=C(C=C3)Cl)C2)C=C1 | C19H21ClFN3O
